**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Common Mode Line Filter
* Matchcode:              WE-SL3 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  9065_744252101_0.1m  1  2  3  4  PARAMS:
+  L1=62.14u
+  L2=20.53u
+  L3=14.10u
+  L4=5.1u
+  C1=0.56p
+  Rs1=2566.63
+  Rs2=5578.77
+  Rs3=2566.33
+  Rs4=2566.33
+  R2=2.41
+  Rdc=0.5
+  dL3=2.6n
+  dC3=2.2pF
+  dR3=550
+  L5=14n
+  R5=1400
+  C5=0.2p
L3  N010  N009  {L3}
R50  N010  N009  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N011  {L1}
R51  4  N011  {Rs1}
L5  N011  N010  {L2}
R52  N011  N010  {Rs2}
L4  N021  N020  {L3}
R53  N021  N020  {Rs3}
C2  N501  N019  {C1}
R501  3  N501  {R2}
L8  3  N022  {L1}
R54  3  N022  {Rs1}
L6  N022  N021  {L2}
R55  N022  N021  {Rs2}
L2  N020  N019  {L4}
R56  N020  N019  {Rs4}
L1  N009  N001  {L4}
R57  N009  N001  {Rs4}
R17  N002  1  {Rdc}
R18  N013  2  {Rdc}
L9  N004  N002  {dL3}
C3  N004  N012  {dC3}
L10  N005  N004  {dL3}
L11  N013  N012  {dL3}
L12  N012  N014  {dL3}
C4  N005  N014  {dC3}
L15  N006  N005  {dL3}
L16  N014  N015  {dL3}
C5  N006  N015  {dC3}
L17  N007  N006  {dL3}
L18  N015  N016  {dL3}
R1  N003  N002  {dR3}
R2  N018  N013  {dR3}
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N019  N018  {L5}
R59  N019  N018  {R5}
C51  N019  N018  {C5}
C6  N007  N016  {dC3}
L19  N008  N007  {dL3}
L20  N016  N017  {dL3}
C7  N008  N017  {dC3}
L21  N003  N008  {dL3}
L22  N017  N018  {dL3}
R3  N004  N012  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
K5  L13  L14  1
K14  L19  L20  1
K15  L21  L22  1
.ends  9065_744252101_0.1m
*******
.SUBCKT  9065_744252220_22u  1  2  3  4  PARAMS:
+  L1=16.30u
+  L2=0.977u
+  L3=3.18u
+  L4=5.29u
+  C1=0.188p
+  Rs1=801.40
+  Rs2=959.93
+  Rs3=710.48
+  Rs4=1059.89
+  R2=238.55
+  Rdc=0.142
+  dL3=2.8n
+  dC3=1.3pF
+  dR3=775
L3  N007  N006  {L3}
R50  N007  N006  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N008  {L1}
R51  4  N008  {Rs1}
L5  N008  N007  {L2}
R52  N008  N007  {Rs2}
L4  N015  N014  {L3}
R53  N015  N014  {Rs3}
C2  N501  N013  {C1}
R501  3  N501  {R2}
L8  3  N016  {L1}
R54  3  N016  {Rs1}
L6  N016  N015  {L2}
R55  N016  N015  {Rs2}
L2  N014  N013  {L4}
R56  N014  N013  {Rs4}
L1  N006  N001  {L4}
R57  N006  N001  {Rs4}
R17  N002  1  {Rdc}
R18  N009  2  {Rdc}
L9  N003  N002  {dL3}
C3  N003  N010  {dC3}
R900  N003  N010  1000g
L10  N004  N003  {dL3}
L11  N009  N010  {dL3}
L12  N010  N011  {dL3}
C4  N004  N011  {dC3}
L15  N005  N004  {dL3}
L16  N011  N012  {dL3}
C5  N005  N012  {dC3}
L17  N001  N005  {dL3}
L18  N012  N013  {dL3}
R1  N001  N002  {dR3}
R2  N013  N009  {dR3}
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
.ends  9065_744252220_22u
**********
.SUBCKT  9065_744252470_47u  1  2  3  4  PARAMS:
+  L1=53.96u
+  L2=10.09u
+  L3=6.05u
+  L4=11.67u
+  C1=0.278p
+  Rs1=1645.53
+  Rs2=1245.53
+  Rs3=2245.53
+  Rs4=2045.53
+  R2=32.3
+  Rdc=0.2
+  dL3=4n
+  dC3=1.775pF
+  dR3=525
L3  N007  N006  {L3}
R50  N007  N006  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N008  {L1}
R51  4  N008  {Rs1}
L5  N008  N007  {L2}
R52  N008  N007  {Rs2}
L4  N015  N014  {L3}
R53  N015  N014  {Rs3}
C2  N501  N013  {C1}
R501  3  N501  {R2}
L8  3  N016  {L1}
R54  3  N016  {Rs1}
L6  N016  N015  {L2}
R55  N016  N015  {Rs2}
L2  N014  N013  {L4}
R56  N014  N013  {Rs4}
L1  N006  N001  {L4}
R57  N006  N001  {Rs4}
R17  N002  1  {Rdc}
R18  N009  2  {Rdc}
L9  N003  N002  {dL3}
C3  N003  N010  {dC3}
R900  N003  N010  1000g
L10  N004  N003  {dL3}
L11  N009  N010  {dL3}
L12  N010  N011  {dL3}
C4  N004  N011  {dC3}
L15  N005  N004  {dL3}
L16  N011  N012  {dL3}
C5  N005  N012  {dC3}
L17  N001  N005  {dL3}
L18  N012  N013  {dL3}
R1  N001  N002  {dR3}
R2  N013  N009  {dR3}
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
.ends  9065_744252470_47u
************
.SUBCKT  9065_744252510_51u  1  2  3  4  PARAMS:
+  L1=34.3u
+  L2=27.38u
+  L3=14.5u
+  L4=4.2u
+  C1=0.257p
+  Rs1=444.39
+  Rs2=2200.17
+  Rs3=2554.11
+  Rs4=2091.98
+  R2=329
+  Rdc=0.239
+  dL3=3.8n
+  dC3=1.9pF
+  dR3=530
L3  N007  N006  {L3}
R50  N007  N006  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N008  {L1}
R51  4  N008  {Rs1}
L5  N008  N007  {L2}
R52  N008  N007  {Rs2}
L4  N015  N014  {L3}
R53  N015  N014  {Rs3}
C2  N501  N013  {C1}
R501  3  N501  {R2}
L8  3  N016  {L1}
R54  3  N016  {Rs1}
L6  N016  N015  {L2}
R55  N016  N015  {Rs2}
L2  N014  N013  {L4}
R56  N014  N013  {Rs4}
L1  N006  N001  {L4}
R57  N006  N001  {Rs4}
R17  N002  1  {Rdc}
R18  N009  2  {Rdc}
L9  N003  N002  {dL3}
C3  N003  N010  {dC3}
R900  N003  N010  1000g
L10  N004  N003  {dL3}
L11  N009  N010  {dL3}
L12  N010  N011  {dL3}
C4  N004  N011  {dC3}
L15  N005  N004  {dL3}
L16  N011  N012  {dL3}
C5  N005  N012  {dC3}
L17  N001  N005  {dL3}
L18  N012  N013  {dL3}
R1  N001  N002  {dR3}
R2  N013  N009  {dR3}
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
.ends  9065_744252510_51u
**********************
.subckt 9065_744253200_20u 1 2 3 4  PARAMS:
+  L1=10.30u
+  L2=1.977u
+  L3=10.18u
+  L4=3.29u
+  C1=0.188p
+  Rs1=521.40
+  Rs2=559.93
+  Rs3=470.48
+  Rs4=1059.89
+  R2=238.55
+  Rdc=0.142
+  dL3=3.8n
+  dC3=1.9pF
+  dR3=500
L3  N007  N006  {L3}
R50  N007  N006  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N008  {L1}
R51  4  N008  {Rs1}
L5  N008  N007  {L2}
R52  N008  N007  {Rs2}
L4  N015  N014  {L3}
R53  N015  N014  {Rs3}
C2  N501  N013  {C1}
R501  3  N501  {R2}
L8  3  N016  {L1}
R54  3  N016  {Rs1}
L6  N016  N015  {L2}
R55  N016  N015  {Rs2}
L2  N014  N013  {L4}
R56  N014  N013  {Rs4}
L1  N006  N001  {L4}
R57  N006  N001  {Rs4}
R17  N002  1  {Rdc}
R18  N009  2  {Rdc}
L9  N003  N002  {dL3}
C3  N003  N010  {dC3}
R900  N003  N010  1000g
L10  N004  N003  {dL3}
L11  N009  N010  {dL3}
L12  N010  N011  {dL3}
C4  N004  N011  {dC3}
L15  N005  N004  {dL3}
L16  N011  N012  {dL3}
C5  N005  N012  {dC3}
L17  N001  N005  {dL3}
L18  N012  N013  {dL3}
R1  N001  N002  {dR3}
R2  N013  N009  {dR3}
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
.ends 9065_744253200_20u
*********
.SUBCKT 9065_744253101_0.1m  1  2  3  4  PARAMS:
+  L1=20u
+  L2=80u
+  L3=0.1p
+  L4=1u
+  C1=0.55p
+  Rs1=6000
+  Rs2=5000
+  Rs3=500
+  Rs4=500
+  R2=2
+  Rdc=0.2
+  dL3=2.9n
+  dC3=1.8pF
+  dR3=370
+  L5=0.1p
+  R5=150
+  C5=0.2p
L3  N010  N009  {L3}
R50  N010  N009  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N011  {L1}
R51  4  N011  {Rs1}
L5  N011  N010  {L2}
R52  N011  N010  {Rs2}
L4  N021  N020  {L3}
R53  N021  N020  {Rs3}
C2  N501  N019  {C1}
R501  3  N501  {R2}
L8  3  N022  {L1}
R54  3  N022  {Rs1}
L6  N022  N021  {L2}
R55  N022  N021  {Rs2}
L2  N020  N019  {L4}
R56  N020  N019  {Rs4}
L1  N009  N001  {L4}
R57  N009  N001  {Rs4}
R17  N002  1  {Rdc}
R18  N013  2  {Rdc}
L9  N004  N002  {dL3}
C3  N004  N012  {dC3}
L10  N005  N004  {dL3}
L11  N013  N012  {dL3}
L12  N012  N014  {dL3}
C4  N005  N014  {dC3}
L15  N006  N005  {dL3}
L16  N014  N015  {dL3}
C5  N006  N015  {dC3}
L17  N007  N006  {dL3}
L18  N015  N016  {dL3}
R1  N003  N002  {dR3}
R2  N018  N013  {dR3}
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N019  N018  {L5}
R59  N019  N018  {R5}
C51  N019  N018  {C5}
C6  N007  N016  {dC3}
L19  N008  N007  {dL3}
L20  N016  N017  {dL3}
C7  N008  N017  {dC3}
L21  N003  N008  {dL3}
L22  N017  N018  {dL3}
R3  N004  N012  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
K5  L13  L14  1
K14  L19  L20  1
K15  L21  L22  1
.ends 9065_744253101_0.1m
*******